US03991076
A solution of 2.0 g (0.0075 mole) of 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one-1,1-dioxide, 0.85 g of dimethylaminopropylamine and 30 ml. of acetic acid is heated under reflux for 5 hours. The reaction solution is cooled, diluted with water, adjusted to a pH of 1 with hydrochloric acid, and then washed with ether. The solution is made basic with sodium bicarbonate and extracted with ether. The ether extract is dried and concentrated to a solid. The solid is recrystallized from 2-propanol to give off-white needles of 1-(3-dimethylaminopropyl)-2-phenyl-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole-5,5-dioxide, m.p. 123° to 125°C.

reactant | 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one-1,1-dioxide | 0.0075 mole, 2.0 g | C(C(=O)C1=CC=CC=C1)C1CS(CCC1=O)(=O)=O | C13H14O4S
reactant | dimethylaminopropylamine | 0.85 g | CN(C)CCCN | C5H14N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(3-dimethylaminopropyl)-2-phenyl-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole-5,5-dioxide | CN(CCCN1C2=C(C=C1C1=CC=CC=C1)CS(CC2)(=O)=O)C | C18H24N2O2S
